US04371536
A stirred mixture of 5.0 g of β-carbolin-3-carboxamide dissolved in 100 ml of dry pyridine and 5.0 g of phosphorus pentasulfide is boiled under reflux for 4 hours. The cooled reaction mixture is concentrated to about 25 ml in vacuo and poured into 1 liter of ice water. After adjusting the pH of the mixture to 8.5 with aqueous ammonia, a solid is filtered off, washed thoroughly with water and dried. The substance formed (3.2 g) is recrystallized from n-butyl alcohol to form β-carbolin-3-carbothioamide of a melting point of 274°-276° C.

reactant | β-carbolin-3-carboxamide | 5.0 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)N | C12H9N3O
reactant | phosphorus pentasulfide | 5.0 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | β-carbolin-3-carbothioamide | C1=NC(=CC=2C3=CC=CC=C3NC12)C(N)=S | C12H9N3S
